.SubCkt LLC152D70G105ME01 _net1 _net2
.param K01=8.8314e-07
.param M01=5.0000e+07
.param L02=4.1676e-11
.param M03=4.2554e-03
.param K04=6.7686e-05
.param M04=3.7849e+01
.param K05=7.7274e-05
.param M05=4.4577e+00
.param K06=8.1284e-05
.param M06=6.4258e-01
.param K07=7.9400e-05
.param M07=9.1349e-02
.param K08=5.8068e-05
.param M08=1.7724e-02
.param K09=5.2792e-05
.param M09=3.2429e-03
.param L10=4.0833e-12
.param M10=2.0337e-01
.param L11=1.1001e-11
.param M11=4.2001e-02
.param L12=3.7956e-11
.param M12=2.0941e-02
.param K13=1.6183e-06
.param L13=1.1909e-11
.param M13=5.8296e-03
.param K14=4.6452e-07
.param L14=1.2985e-11
.param M14=6.1296e-03
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
C13 _net1213 _net1314 'K13'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net2 'K14'
L14 _net1314 _net2 'L14'
R14 _net1314 _net2 'M14'
.ends 

.SubCkt LLC15SD70E105ME01 _net1 _net2
.param K01=8.5025e-07
.param M01=5.0000e+07
.param L02=4.7663e-11
.param M03=4.7852e-03
.param K04=7.7331e-05
.param M04=2.4891e+01
.param K05=8.5566e-05
.param M05=5.4274e+00
.param K06=8.2367e-05
.param M06=1.0650e+00
.param K07=8.1709e-05
.param M07=1.9448e-01
.param K08=6.2428e-05
.param M08=3.8623e-02
.param K09=4.2287e-05
.param M09=7.4678e-03
.param L10=5.2249e-12
.param M10=1.8326e-01
.param L11=9.6952e-12
.param M11=3.7710e-02
.param L12=3.2753e-11
.param M12=1.6613e-02
.param L13=1.6062e-11
.param M13=5.9620e-03
.param K14=2.0195e-06
.param L14=7.9509e-12
.param M14=4.6293e-03
.param K15=1.4913e-06
.param L15=3.6439e-12
.param M15=3.2193e-03
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 

.SubCkt LLC152D70E225ME01 _net1 _net2
.param K01=1.7573e-06
.param M01=2.2727e+07
.param L02=4.2801e-11
.param M03=3.3309e-03
.param K04=9.7565e-05
.param M04=1.9300e+01
.param K05=1.4076e-04
.param M05=2.1204e+00
.param K06=1.7274e-04
.param M06=4.4493e-01
.param K07=1.4289e-04
.param M07=1.2568e-01
.param K08=1.0899e-04
.param M08=2.7186e-02
.param K09=6.4712e-05
.param M09=5.7606e-03
.param L10=5.9900e-12
.param M10=6.3070e-02
.param L11=9.1814e-12
.param M11=2.8317e-02
.param L12=2.3438e-11
.param M12=1.1852e-02
.param L13=4.1971e-11
.param M13=1.0240e-02
.param K14=3.1064e-06
.param L14=1.4683e-11
.param M14=4.9751e-03
.param K15=2.1058e-06
.param L15=7.3474e-12
.param M15=4.1446e-03
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
R09 _net0809 _net0910 'M09'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
L11 _net1011 _net1112 'L11'
R11 _net1011 _net1112 'M11'
L12 _net1112 _net1213 'L12'
R12 _net1112 _net1213 'M12'
L13 _net1213 _net1314 'L13'
R13 _net1213 _net1314 'M13'
C14 _net1314 _net1415 'K14'
L14 _net1314 _net1415 'L14'
R14 _net1314 _net1415 'M14'
C15 _net1415 _net2 'K15'
L15 _net1415 _net2 'L15'
R15 _net1415 _net2 'M15'
.ends 
