.SubCkt KR955WD7LF474MH01 [_net1] [_net2]
.param K01=4.5860e-07
.param L02=5.6494e-12
.param M03=8.1060e-03
.param K04=1.7041e-04
.param M04=1.5154e-02
.param L05=1.1984e-11
.param M05=3.0633e-02
.param L06=4.6525e-10
.param M06=8.6978e-03
.param K07=7.2918e-07
.param L07=3.3414e-10
.param M07=1.9309e-01
.param K08=7.4124e-07
.param L08=9.0099e-11
.param M08=1.1941e-01
.param K09=8.1616e-07
.param L09=5.3031e-11
.param M09=6.1553e-02
.param K10=3.0014e-07
.param L10=6.7458e-11
.param M10=5.8243e-02
.param K11=4.6160e-07
.param L11=2.1565e-11
.param M11=2.1974e-02
.param K12=3.6547e-07
.param L12=1.5037e-11
.param M12=2.3786e-02
.param K13=6.2838e-09
.param L13=1.7673e-10
.param M13=6.5792e-02
.param K14=3.7404e-12
.param L14=9.6852e-10
.param M14=1.8384e+02
.param K15=9.5372e-12
.param L15=3.1171e-10
.param M15=5.2843e+01
C01 _net1 _net0102 {K01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
L05 _net0405 _net0506 {L05}
R05 _net0405 _net0506 {M05}
L06 _net0506 _net0607 {L06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
L07 _net0607 _net0708 {L07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
L08 _net0708 _net0809 {L08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
C10 _net0910 _net1011 {K10}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
C11 _net1011 _net1112 {K11}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net1213 {K12}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net1314 {K13}
L13 _net1213 _net1314 {L13}
R13 _net1213 _net1314 {M13}
C14 _net1314 _net1415 {K14}
L14 _net1314 _net1415 {L14}
R14 _net1314 _net1415 {M14}
C15 _net1415 _net2 {K15}
L15 _net1415 _net2 {L15}
R15 _net1415 _net2 {M15}
.ends KR955WD7LF474MH01

.SubCkt KR955WD7LG274MH01 [_net1] [_net2]
.param K01=2.5974e-07
.param L02=2.6876e-11
.param M03=9.4871e-03
.param K04=8.0041e-05
.param M04=3.1337e-02
.param L05=7.3328e-12
.param M05=2.1521e-02
.param L06=3.5835e-10
.param M06=9.5978e-03
.param K07=4.1709e-07
.param L07=3.1487e-10
.param M07=2.6727e-01
.param K08=4.1931e-07
.param L08=8.5931e-11
.param M08=1.3585e-01
.param K09=3.9212e-07
.param L09=6.0378e-11
.param M09=8.0752e-02
.param K10=2.4162e-07
.param L10=4.4009e-11
.param M10=7.5406e-02
.param K11=3.1334e-07
.param L11=1.6541e-11
.param M11=2.6549e-02
.param K12=6.9205e-09
.param L12=1.8634e-10
.param M12=7.4042e-02
.param K13=6.8910e-12
.param L13=5.1111e-10
.param M13=1.2709e+02
.param K14=3.8822e-12
.param L14=7.0270e-10
.param M14=8.0050e+01
C01 _net1 _net0102 {K01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
L05 _net0405 _net0506 {L05}
R05 _net0405 _net0506 {M05}
L06 _net0506 _net0607 {L06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
L07 _net0607 _net0708 {L07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
L08 _net0708 _net0809 {L08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
C10 _net0910 _net1011 {K10}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
C11 _net1011 _net1112 {K11}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net1213 {K12}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net1314 {K13}
L13 _net1213 _net1314 {L13}
R13 _net1213 _net1314 {M13}
C14 _net1314 _net2 {K14}
L14 _net1314 _net2 {L14}
R14 _net1314 _net2 {M14}
.ends KR955WD7LG274MH01
